US06930076B2
1 g (9.89 mmol) of 2-mercaptooxazole and 0.72 g (9.89 mmol) of sec-butylamine were dissolved in 20 ml of ethanol and refluxed for 2 hours. After cooling, the solvent was distilled off under reduced pressure and the residue was treated with column chromatography to obtain 0.83 g of 1-sec-butyl-2-mercaptoimidazole. mp.=108-121° C., yield 54%.

reactant | 2-mercaptooxazole | 9.89 mmol, 1 g | SC=1OC=CN1 | C3H3NOS
reactant | sec-butylamine | 9.89 mmol, 0.72 g | C(C)(CC)N | C4H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-sec-butyl-2-mercaptoimidazole | 0.83 g, yield 54% | C(C)(CC)N1C(=NC=C1)S | C7H12N2S
